US08293770B2
f) [(3SR,4RS)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-phenyl-methanone
To a stirred solution of [(3RS,4SR)-1-benzoyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester (80 mg, 0.19 mmol) in CH2Cl2 (1 ml) was added TFA (0.2 ml). The reaction mixture was stirred at RT for 2 hours, aqueous NaHCO3 was added until pH=8 and the product was extracted with CH2Cl2. The combined organic phase were dried over Na2SO4. Concentration under vacuo gave 64 mg (95%) of the title product as a colorless oil. ES-MS m/e: 315.1 (M+H+).

reactant | [(3RS,4SR)-1-benzoyl-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid tert-butyl ester | 0.19 mmol, 80 mg | C(C)(C)(C)OC(N(C)C1CN(CC1C1=CC=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O | C23H27ClN2O3
reactant | TFA | 0.2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | [(3SR,4RS)-3-(4-Chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-phenyl-methanone | 64 mg, 95% | ClC1=CC=C(C=C1)C1CN(CC1NC)C(=O)C1=CC=CC=C1 | C18H19ClN2O
